US04548639
12.4 g (0.084 mol) of dichloroacetyl chloride were added dropwise to a mixture of 12 g (0.084 mol) of piperid-4-one ethylene ketal and 12.8 g (0.084 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 100 ml of toluene, whilst stirring, at a rate such that the temperature of the reaction mixture did not exceed 40° C. Thereafter, the mixture was subsequently stirred at 20° C. for 2 hours. Working up was then effected by a procedure in which the reaction mixture was filtered, the filtrate was concentrated under reduced pressure and the residue was recrystallized from a mixture of toluene and petroleum ether. 10.5 g (49% of theory) of N-dichloroacetyl-piperid-4-one ethylene ketal were obtained in this manner in the form of colorless crystals of melting point 102° C.

reactant | dichloroacetyl chloride | 0.084 mol, 12.4 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | piperid-4-one ethylene ketal | 0.084 mol, 12 g | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.084 mol, 12.8 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-dichloroacetyl-piperid-4-one ethylene ketal | 10.5 g, 49% | C1COC2(CCN(CC2)C(C(Cl)Cl)=O)O1 | C9H13Cl2NO3
